US07378415B2
1-Benzenesulfonyl-4-methoxy-benzene (5.92 g, 23.8 mmol) was dissolved in methylene chloride and stirred. A solution of BBr3 (6.77 g, 71.68 mg) in 120 mL of methylene chloride was added dropwise to the reaction mixture, after which the mixture was stirred for 4 hours at room temperature. Water (150 mL) was then added to the reaction mixture, and the organic layer was separated. The aqueous layer was extracted three times with 45 mL methylene chloride, and the combined organic layers were dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (30-50% EtOAc in hexanes) to afford 5.348 g of 4-benzenesulfonyl-phenol (22.8 mmol, 99%) as an oil. MS: 235 (M+H)+.

reactant | 1-Benzenesulfonyl-4-methoxy-benzene | 23.8 mmol, 5.92 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C13H12O3S
reactant | BBr3 | 6.77 g | B(Br)(Br)Br | BBr3
reactant | Water | 150 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
product | 4-benzenesulfonyl-phenol | 22.8 mmol, 5.348 g, 99% | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)O | C12H10O3S
